US07420001B2
A solution of 115 mg (0.46 mmol) of 4-ethoxy-3-methyl-benzofuran-2-carboxylic acid in 2 mL of oxalyl chloride was refluxed for 4 h in the presence of a catalytic amount of DMF, then the excess oxalyl chloride was removed under vacuum. The residue was dissolved in 2 mL of dichloromethane and was added to a mixture of 201 mg (0.56 mmol) of (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester, and 2 mL of pyridine in an ice/water bath. The mixture was stirred at room temperature overnight. All the solvents were then removed under vacuum. Column chromatography with silica gel gave 237 mg (93% yield) of (S)-2-{4′-[(4-ethoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester as an off white solid.

reactant | 4-ethoxy-3-methyl-benzofuran-2-carboxylic acid | 0.46 mmol, 115 mg | C(C)OC1=CC=CC2=C1C(=C(O2)C(=O)O)C | C12H12O4
reactant | DMF | CN(C)C=O | C3H7NO
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 0.56 mmol, 201 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C18H22N2O4S
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | oxalyl chloride | 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | (S)-2-{4′-[(4-ethoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester | 237 mg, 93% yield | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)OCC)=O | C30H32N2O7S
